US09388161B2
Step 2. (S)-4-(1-acetyl-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-1,2,3,4-tetrahydroquinolin-5-yloxy)benzamide
A 50-mL, round-bottom flask was charged with (S)-4-(1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yloxy)benzamide (0.068 g, 0.17 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.059 g, 0.25 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (0.014 g, 0.02 mmol), potassium carbonate (0.070 g, 0.50 mmol), 1,4-dioxane (20 mL) and water (2 mL). The resulting mixture stirred overnight at 100° C. After cooling to room temperature, the reaction mixture was passed through a short pad of celite, and the filtrate was concentrated under vacuum. The residue was purified by preparative thin layer chromatography (eluting with 1:1, ethyl acetate/petroleum ether). The product was further purified by preparative-HPLC with the following conditions (Waters I): Column, XBridge Prep C18 OBD Column, 19×150 mm 5 um 13 nm; mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (15.0% to 95% acetonitrile in 12 min; flow rate: 20 mL/min); Detector, UV 254/220 nm. This afforded (S)-4-(1-acetyl-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-1,2,3,4-tetrahydroquinolin-5-yloxy)benzamide (0.029 g, 40%) as an off-white solid. 1H NMR (300 MHz, CD3OD) δ ppm 0.93-1.03 (m, 4H), 1.15 (d, J=6.60 Hz, 3H, 1.19-1.42 (m, 1H), 2.18-2.27 (m, 5H), 2.67-2.75 (m, 1H), 3.56-3.63 (m, 1H), 4.77-4.79 (m, 1H), 6.85-6.88 (m, 2H), 7.37 (m, 1H), 7.63 (d, J=8.40 Hz, 1H), 7.77 (s, 1H), 7.81-7.85 (m, 2H), 7.94 (s, 1H). MS (ESI, pos. ion) m/z 431 [M+H]+.

reactant | (S)-4-(1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yloxy)benzamide | 0.17 mmol, 0.068 g | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)Br)OC1=CC=C(C(=O)N)C=C1)C | C19H19BrN2O3
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.25 mmol, 0.059 g | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | dichloromethane | 0.02 mmol, 0.014 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 0.50 mmol, 0.070 g | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(1-acetyl-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-1,2,3,4-tetrahydroquinolin-5-yloxy)benzamide | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CC1)OC1=CC=C(C(=O)N)C=C1)C | C25H26N4O3
